US07297707B2
(i) N-Benzothiazol-2-yl-N′,N′-diethyl-benzene-1,4-diamine
The title compound was synthesised from 2-Chloro-benzothiazole (commercially available) and N,N-Diethyl-p-phenylenediamine (commercially available) according to the procedure described for Example 1a) above. MS (m/e): 298.2 (MH+, 100%).

reactant | 2-Chloro-benzothiazole | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | N,N-Diethyl-p-phenylenediamine | C(C)N(C1=CC=C(C=C1)N)CC | C10H16N2
product | N-Benzothiazol-2-yl-N′,N′-diethyl-benzene-1,4-diamine | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)N(CC)CC | C17H19N3S
